US08304541B2
Alternatively, the 6-methoxycarbonyl-2-oxindole may be reacted directly with trimethylorthobenzoate in the presence of acetanhydride to obtain the “enolether” (methyl 3-[methoxy(phenyl)methylene]-2-oxoindoline-6-carboxylate). This alternative embodiment is described in the General Synthesis Scheme as step II′ and may be carried out as described above for step IIb.

reactant | 6-methoxycarbonyl-2-oxindole | COC(=O)C1=CC=C2CC(NC2=C1)=O | C10H9NO3
reactant | trimethylorthobenzoate | COC(C1=CC=CC=C1)(OC)OC | C10H14O3
reactant | acetanhydride | CC(=O)OC(=O)C | C4H6O3
product | methyl 3-[methoxy(phenyl)methylene]-2-oxoindoline-6-carboxylate | COC(=C1C(NC2=CC(=CC=C12)C(=O)OC)=O)C1=CC=CC=C1 | C18H15NO4
